US05081131
N-(4-(1H-imidazol-1yl)butyl)benz(cd)indol-2-amine
A 41.8 g portion of N-(4-(1H-imidazol-1-yl)butyl)benz(cd)indol-2-amine, monohydroiodide was added to a stirred mixture of 500 ml of dichloromethane and 125 ml of 1N sodium hydroxide solution. After 1 hour the layers were separated and the dichloromethane layer dried over sodium sulfated. The sodium sulfate was filtered off and the filtrate evaporated to dryness in vacuo, giving 29 g of the desired compound as a bright orange yellow viscous oil.

reactant | N-(4-(1H-imidazol-1-yl)butyl)benz(cd)indol-2-amine, monohydroiodide | I.N1(C=NC=C1)CCCCNC1=NC2=CC=CC=3C2=C1C=CC3
reactant | sodium hydroxide | 1N, 125 ml | [OH-].[Na+]
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
product | N-(4-(1H-imidazol-1yl)butyl)benz(cd)indol-2-amine | 29 g | N1(C=NC=C1)CCCCNC1=NC2=CC=CC=3C2=C1C=CC3 | C18H18N4
